US04996216
At room temperature (about 20° C.), 4.9 g of 4-(6-chloro-2-pyridinyloxy)-phenol in 40 ml of anhydrous dimethylformamide is dripped into 0.6 g of 100% strength sodium hydride in 20 ml of anhydrous dimethylformamide. The mixture is subsequently stirred for 30 minutes at 50° C., and then 4.2 g of 1-chloromethyl-4,5-dichloroimidazole in 20 ml of anhydrous dimethylformamide is dripped in at room temperature. This mixture is stirred for 2 hours at 60° C. and overnight at room temperature. It is then stirred into 200 ml of ice water and the solution is extracted three times with methyl tert-butyl ether. The organic phase is washed with 5% strength sodium hydroxide solution and water, and dried, and the solvent is evaporated off under reduced pressure. The crude product obtained is recrystallized from toluene. There is obtained 6.6 g of 1-[4-(6-chloro-2-pyridinyloxy)-phenoxymethyl]-4,5-dichloroimidazole; m.p.: 94°-98° C.

reactant | 4-(6-chloro-2-pyridinyloxy)-phenol | 4.9 g | ClC1=CC=CC(=N1)OC1=CC=C(C=C1)O | C11H8ClNO2
reactant | sodium hydride | [H-].[Na+]
reactant | 1-chloromethyl-4,5-dichloroimidazole | 4.2 g | ClCN1C=NC(=C1Cl)Cl | C4H3Cl3N2
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 1-[4-(6-chloro-2-pyridinyloxy)-phenoxymethyl]-4,5-dichloroimidazole | 6.6 g | ClC1=CC=CC(=N1)OC1=CC=C(OCN2C=NC(=C2Cl)Cl)C=C1 | C15H10Cl3N3O2
